US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=556.0 (M+), was prepared in accordance with the general method of example 1 from 3,5-bis(trifluoromethyl)benzoyl chloride and rac-cis-4-(3-bromo-phenyl)-3-phenyl-piperidine hydrochloride.

reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | rac-cis-4-(3-bromo-phenyl)-3-phenyl-piperidine hydrochloride | Cl.BrC=1C=C(C=CC1)[C@@H]1[C@@H](CNCC1)C1=CC=CC=C1
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)Br)C1=CC=CC=C1)(F)F | C26H20BrF6NO
